US08791255B2
The product is prepared according to the following procedure, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 395 mg of 3-cyclopropylaniline (prepared according to Wallace et al., in Tetrahedron Lett. 2002, 43, 6987) in place of the 2,4-difluoroaniline. 225 mg of N-(3-cyclopropylphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3-cyclopropylaniline | 395 mg | C1(CC1)C=1C=C(N)C=CC1 | C9H11N
product | N-(3-cyclopropylphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 225 mg | C1(CC1)C=1C=C(C=CC1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C19H22N4O3
